US09447090B2
To a solution of 216 mg of tert-butyl (3R)-3-({[8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridin-3-yl]carbonyl}amino)-5-methylhexanoate in 2 ml of dichloromethane was added 2 ml of trifluoroacetic acid, followed by stirring overnight. The solvent was evaporated under reduced pressure, and water, a saturated aqueous sodium hydrogen carbonate solution, 1 M hydrochloric acid, and chloroform were added thereto to carry out a layer separation operation. The organic layer was dried over anhydrous sodium sulfate, the solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography. To the obtained purified product were added ethyl acetate and diisopropyl ether, and the resulting solid was collected by filtration and dried to obtain 147 mg of (3R)-3-({[8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridin-3-yl]carbonyl}amino)-5-methylhexanoic acid.

reactant | tert-butyl (3R)-3-({[8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridin-3-yl]carbonyl}amino)-5-methylhexanoate | 216 mg | C1(CCCCC1)COC=1C=2N(C=CC1)C(=C(N2)C)C(=O)N[C@@H](CC(=O)OC(C)(C)C)CC(C)C | C27H41N3O4
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | (3R)-3-({[8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridin-3-yl]carbonyl}amino)-5-methylhexanoic acid | 147 mg | C1(CCCCC1)COC=1C=2N(C=CC1)C(=C(N2)C)C(=O)N[C@@H](CC(=O)O)CC(C)C | C23H33N3O4
